US05179125
Preparation of benzyl 2-[(2-mercaptomethyl-3phenylpropionyl)amino]isobutyrate
Benzyl 2-[(2-acetylthiomethyl-3-phenylpropionyl)-amino]isobutyrate (0.45 g) is dissolved in a mixture of methanol (5 ml) and water (3 ml) under nitrogen, and thereto is added triethylamine (0.22 g), and the mixture is stirred at room temperature for 5 hours. After the reaction, the reaction mixture is acidified with saturated aqueous citric acid solution, and methanol is distilled off under reduced pressure. To the residue is added water, and the mixture is extracted with chloroform. The extract is washed with water and dried over anhydrous magnesium sulfate, and then distilled under reduced pressure. The residue is purified by a silica gel column chromatography (eluant, chloroform) to give the title compound (0.35 g).

reactant | Benzyl 2-[(2-acetylthiomethyl-3-phenylpropionyl)-amino]isobutyrate | 0.45 g | C(C)(=O)SCC(C(=O)NC(C(=O)OCC1=CC=CC=C1)(C)C)CC1=CC=CC=C1 | C23H27NO4S
reactant | triethylamine | 0.22 g | C(C)N(CC)CC | C6H15N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | 5 ml | CO | CH4O
solvent | water | 3 ml | O | H2O
product | benzyl 2-[(2-mercaptomethyl-3phenylpropionyl)amino]isobutyrate | 0.35 g | SCC(C(=O)NC(C(=O)OCC1=CC=CC=C1)(C)C)CC1=CC=CC=C1 | C21H25NO3S
